US09216975B2
Preparation of 2-(2-dimethylaminoethoxy)-6-(trifluoromethyl)pyridine-3-carbonitrile 28b (Scheme 14)
To N,N-dimethylaminoethanol (25 mL) at 0° C. was added in small portion NaH 60% (4 mol eq, 0.465 g, 11.62 mmol) and after 10 min 2-chloro-6-trifluoromethyl-nicotinonitrile (0.6 g, 2.90 mmol) was slowly added. The mixture was heated at 65° C. for 4 h. Then the solvent was removed at reduced pressure, water was added and the aqueous phase was extracted with EtOAc (3×30 mL). The recombined organic phases were washed with brine, anhydrified over Na2SO4 and evaporated at reduced pressure to obtain a pale yellow oil (0.69 g, 2.66 mmol, 92% Yield) used for the next step of reaction without further purification.

reactant | N,N-dimethylaminoethanol | 25 mL | CN(C)CCO | C4H11NO
reactant | NaH | [H-].[Na+]
reactant | 2-chloro-6-trifluoromethyl-nicotinonitrile | 2.90 mmol, 0.6 g | ClC1=C(C#N)C=CC(=N1)C(F)(F)F | C7H2ClF3N2
product | 2-(2-dimethylaminoethoxy)-6-(trifluoromethyl)pyridine-3-carbonitrile | 2.66 mmol, 0.69 g, 92% Yield | CN(CCOC1=NC(=CC=C1C#N)C(F)(F)F)C | C11H12F3N3O
